US04714774
In dimethylformamide (30 ml), 3-(3-acetoxy-4-acetyl-2-propylphenoxy)propylbromide (1.6 g) was allowed to react with 3-dimethylaminopropyl 3-bromo-4-hydroxybenzoate.hydrochloride (1.7 g), potassium iodide (0.83 g) and potassium carbonate (0.7 g) at 60°-70° C. for 6 hours with stirring. Insoluble materials were filtered off, and the filtrate was concentrated. The resulting syrup was purified by means of a flash chromatography using silica-gel to give 3-dimethylaminopropyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoate (1.8 g). The product was dissolved in ether, to which was added equivalent oxalic acid (250 mg) to give crystalline oxalate (1.8 g), m.p. 141°-142° C.

reactant | 3-(3-acetoxy-4-acetyl-2-propylphenoxy)propylbromide | 1.6 g | C(C)(=O)OC=1C(=C(OCCCBr)C=CC1C(C)=O)CCC | C16H21BrO4
reactant | 3-dimethylaminopropyl 3-bromo-4-hydroxybenzoate.hydrochloride | 1.7 g | Cl.BrC=1C=C(C(=O)OCCCN(C)C)C=CC1O
reactant | potassium iodide | 0.83 g | [I-].[K+]
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-dimethylaminopropyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoate | 1.8 g | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)OCCCN(C)C)C=C2)Br)C=CC1C(C)=O)CCC | C28H36BrNO7
